US09422293B2
2-(Phenylsulfanyl)-N-[4-(trifluoromethyl)phenyl]-7-[3-(trifluoromethyl)pyridin-2-yl]-6,7,8,9-tetrahydro-5H-pyrimido[4,5-d]azepin-4-amine
To a microwave reaction vial were added [2-methanesulfonyl-7-(3-trifluoromethyl-pyridin-2-yl)-6,7,8,9-tetrahydro-5H-pyrimido[4,5-d]azepin-4-yl]-(4-trifluoromethyl-phenyl)-amine (53 mg, 0.1 mmol), thiophenol (16 mg, 0.15 mmol), p-toluenesulfonic acid monohydrate (10 mg, 0.05 mmol), and DMF (0.4 mL). The vial was capped, and the mixture was heated via microwave irradiation at 100° C. for 10 min, filtered through a 0.45 μm filter, and the filtrate was purified by reversed phase HPLC (Phenomenex Gemini 30 mm×100 mm column, gradient of acetonitrile in 20 mM aqueous NH4OH). The title compound was obtained as a white solid (27 mg, 48%). MS (ESI): mass calcd. for C27H21F6N5S, 561.14; m/z found, 562 [M+H]+. 1H NMR (CDCl3): 8.38 (dd, J=4.7, 1.5 Hz, 1H), 7.88 (dd, J=7.8, 1.8 Hz, 1H), 7.68-7.62 (m, 2H), 7.56-7.50 (m, 1H), 7.50-7.42 (m, 2H), 7.23 (d, J=8.7 Hz, 2H), 7.16 (d, J=8.7 Hz, 2H), 6.96 (dd, J=7.4, 4.6 Hz, 1H), 6.58 (bs, 1H), 3.66-3.55 (m, 4H), 3.23-3.17 (m, 2H), 2.96-2.90 (m, 2H).

reactant | [2-methanesulfonyl-7-(3-trifluoromethyl-pyridin-2-yl)-6,7,8,9-tetrahydro-5H-pyrimido[4,5-d]azepin-4-yl]-(4-trifluoromethyl-phenyl)-amine | 0.1 mmol, 53 mg | CS(=O)(=O)C=1N=C(C2=C(CCN(CC2)C2=NC=CC=C2C(F)(F)F)N1)NC1=CC=C(C=C1)C(F)(F)F | C22H19F6N5O2S
reactant | thiophenol | 0.15 mmol, 16 mg | C1(=CC=CC=C1)S | C6H6S
reactant | p-toluenesulfonic acid monohydrate | 0.05 mmol, 10 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | DMF | 0.4 mL | CN(C)C=O | C3H7NO
product | 2-(Phenylsulfanyl)-N-[4-(trifluoromethyl)phenyl]-7-[3-(trifluoromethyl)pyridin-2-yl]-6,7,8,9-tetrahydro-5H-pyrimido[4,5-d]azepin-4-amine | C1(=CC=CC=C1)SC=1N=C(C2=C(CCN(CC2)C2=NC=CC=C2C(F)(F)F)N1)NC1=CC=C(C=C1)C(F)(F)F | C27H21F6N5S
